US04619686
N-[6-Chloro-5-(1,1-dimethylethyl)-3-pyridazinyl]-N'-methylurea
To a mixture of 1.3 g of (0.007 mole) of 3-amino-6-chloro-5-(1,1-dimethylethyl)pyridazine in 65 ml of methylene chloride was added one drop of triethylamine and 0.8 g (0.014 mole, 2.0 equivalents) of methyl isocyanate. The mixture was stirred at room temperature for about 18 hours. Additional methyl isocyanate (0.8 g, 0.140 mole, 2.0 equivalents) was added and about 3 hours later, the solution was diluted to 400 ml using methylene chloride. The solution was washed with four 40-ml portions of 1.0N hydrochloric acid and 50 ml of water, and was then dried with magnesium sulfate.

reactant | 3-amino-6-chloro-5-(1,1-dimethylethyl)pyridazine | 0.007 mole, 1.3 g | NC=1N=NC(=C(C1)C(C)(C)C)Cl | C8H12ClN3
reactant | methyl isocyanate | 0.014 mole, 0.8 g, 2.0 equivalents | CN=C=O | C2H3NO
reactant | methyl isocyanate | 0.140 mole, 0.8 g, 2.0 equivalents | CN=C=O | C2H3NO
solvent | methylene chloride | 65 ml | C(Cl)Cl | CH2Cl2
catalyst | triethylamine | one drop | C(C)N(CC)CC | C6H15N
product | N-[6-Chloro-5-(1,1-dimethylethyl)-3-pyridazinyl]-N'-methylurea | ClC1=C(C=C(N=N1)NC(=O)NC)C(C)(C)C | C10H15ClN4O
